data/polar.json
{"reaction_name": "Malonate deprotonation", "rsmi": "[O:1]([C:3]([CH:6]([C:4]([O:2][CH3:8])=[O:10])[H:11])=[O:9])[CH3:7].[OH-:5]>>[O:1]([C:3]([CH-:6][C:4]([O:2][CH3:8])=[O:10])=[O:9])[CH3:7].[OH:5][H:11]", "epd": [["LP-/Sigma+", [5], [5, 11]], ["Sigma-/LP+", [6, 11], [6]]]}
{"reaction_name": "Silyl nucleophile carbonyl addition", "rsmi": "[C:1](#[C-:4])[Si:9]([CH3:6])([CH3:7])[CH3:8].[O:2]=[CH:5][CH3:3]>>[C:1](#[C:4][CH:5]([O-:2])[CH3:3])[Si:9]([CH3:6])([CH3:7])[CH3:8]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Pi-/LP+", [2, 5], [2]]]}
{"reaction_name": "Stannane substitution", "rsmi": "[Cl:2][Sn:7]([CH3:3])([CH3:4])[CH3:5].[O:1]([CH3:6])[H:8]>>[Cl:2][H:8].[O:1]([CH3:6])[Sn:7]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Sigma-/LP+", [2, 7], [2]], ["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [1, 8], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:7][cH:13][c:12]([N+:9](=[CH2:11])[CH3:18])[cH:14][cH:8]1.[cH:2]1[cH:4][c:5]2[c:17]([cH:10][cH:19]1)[CH:16]=[CH:3][CH:15]2[Li:6]>>[Li+:6].[cH:1]1[cH:7][cH:13][c:12]([N:9]([CH2:11][CH:15]2[CH:3]=[CH:16][c:17]3[c:5]2[cH:4][cH:2][cH:19][cH:10]3)[CH3:18])[cH:14][cH:8]1", "epd": [["Sigma-/Sigma+", [15, 6], [15, 11]], ["Pi-/LP+", [11, 9], [9]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[C:1]1(=[O:4])[N-:2][CH2:13][CH2:14][O:10]1.[c:3]1([N:15]=[C:6]=[S:9])[cH:17][cH:11][c:7]([N+:16](=[O:5])[O-:8])[cH:12][cH:18]1>>[C:1]1(=[O:4])[N:2]([C:6]([S-:9])=[N:15][c:3]2[cH:17][cH:11][c:7]([N+:16](=[O:5])[O-:8])[cH:12][cH:18]2)[CH2:13][CH2:14][O:10]1", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Pi-/LP+", [6, 9], [9]]]}
{"reaction_name": "Conjugate addition to a coumarin / α-pyrone system", "rsmi": "[CH2:1]1[CH2:21][N+:34]2([CH2:31][c:13]3[cH:6][c:29]4[cH:5][cH:4][cH:30][cH:15][c:24]4[o:19][c:11]3=[O:17])[CH2:22][CH2:2][N:32]1[CH2:3][CH2:23]2.[O-:7][C:14](=[CH:8][N:27]=[CH:28][c:12]1[cH:9][cH:25][cH:33][cH:26][cH:10]1)[O:18][CH2:20][CH3:16]>>[CH2:1]1[CH2:21][N+:34]2([CH2:31][C:13]3=[C:11]([O-:17])[O:19][c:24]4[cH:15][cH:30][cH:4][cH:5][c:29]4[CH:6]3[CH:8]([C:14](=[O:7])[O:18][CH2:20][CH3:16])[N:27]=[CH:28][c:12]3[cH:9][cH:25][cH:33][cH:26][cH:10]3)[CH2:22][CH2:2][N:32]1[CH2:3][CH2:23]2", "epd": [["LP-/Pi+", [7], [14, 7]], ["Pi-/Sigma+", [8, 14], [8, 6]], ["Pi-/Pi+", [6, 13], [13, 11]], ["Pi-/LP+", [11, 17], [17]]]}
{"reaction_name": "Peterson olefination sequence", "rsmi": "[CH3:1][C:2]([H:3])=[O:9].[CH3:4][Si:7]([CH3:5])([CH3:6])[CH2-:8]>>[CH3:1][C:2]([H:3])=[CH2:8].[CH3:4][Si:7]([CH3:5])([CH3:6])[O-:9]", "epd": [["LP-/Sigma+", [8], [2, 8]], ["Sigma-/LP+", [2, 9], [9]], ["LP-/Sigma+", [9], [7, 9]], ["Sigma-/LP+", [7, 8], [8]], ["LP-/Pi+", [8], [2, 8]], ["Pi-/LP+", [2, 9], [9]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]1(=[O:3])[N-:2][CH2:19][CH2:20][O:10]1.[cH:4]1[cH:11][cH:15][cH:14][cH:7][c:23]1[P:9](=[O:17])([c:24]1[cH:5][cH:12][cH:16][cH:13][cH:6]1)[N:25]=[CH:8][c:18]1[cH:27][cH:21][cH:26][cH:22][cH:28]1>>[C:1]1(=[O:3])[N:2]([CH:8]([c:18]2[cH:27][cH:21][cH:26][cH:22][cH:28]2)[N:25]=[P:9]([O-:17])([c:23]2[cH:4][cH:11][cH:15][cH:14][cH:7]2)[c:24]2[cH:5][cH:12][cH:16][cH:13][cH:6]2)[CH2:19][CH2:20][O:10]1", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Pi-/Pi+", [8, 25], [25, 9]], ["Pi-/LP+", [9, 17], [17]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:13][cH:18][c:12]([B-:3]2([CH2:15][CH:10]=[CH2:24])[O:25][C:22]([CH3:4])([CH3:5])[C:23]([CH3:6])([CH3:7])[O:26]2)[cH:19][cH:14]1.[cH:2]1[cH:8][cH:20][c:17]([N+:11](=[CH2:16])[CH3:27])[cH:21][cH:9]1>>[cH:1]1[cH:13][cH:18][c:12]([B-:3]2([CH2:15][CH+:10][CH2:24][CH2:16][N:11]([c:17]3[cH:20][cH:8][cH:2][cH:9][cH:21]3)[CH3:27])[O:25][C:22]([CH3:4])([CH3:5])[C:23]([CH3:6])([CH3:7])[O:26]2)[cH:19][cH:14]1", "epd": [["Pi-/Sigma+", [24, 10], [24, 16]], ["Pi-/LP+", [16, 11], [11]]]}
{"reaction_name": "Groebke–Blackburn–Bienaymé reaction", "rsmi": "[n:1]1[cH:2][cH:3][cH:4][cH:5][c:6]1[N:7]([H:14])[H:15].[CH3:8][C:9]([H:16])=[O:10].[C-:11]#[N+:12][CH3:13]>>[N:1]1=[CH:2][CH:3]=[CH:4][CH:5]2[C:6]1=[N:7][C:11](=[N:12][CH3:13])[C:9]2([CH3:8])[H:16].[O:10]([H:14])[H:15]", "epd": [["LP-/Sigma+", [7], [7, 9]], ["Pi-/LP+", [9, 10], [10]], ["LP-/Sigma+", [10], [10, 14]], ["Sigma-/LP+", [7, 14], [7]], ["LP-/Sigma+", [10], [10, 15]], ["Sigma-/Pi+", [7, 15], [7, 9]], ["Sigma-/LP+", [9, 10], [10]], ["LP-/Sigma+", [11], [9, 11]], ["Pi-/LP+", [7, 9], [7]], ["LP-/Sigma+", [7], [7, 11]], ["Pi-/LP+", [11, 12], [12]], ["Pi-/Sigma+", [5, 6], [5, 9]], ["Sigma-/Pi+", [7, 9], [6, 7]]]}
